US05739382
7.2. 2-amino-3-cyclopentylbenzenesulphonic acid
9.6 g (30.3 mmol) of 2-amino-5-bromo-3-cyclopent-2-en-1-ylbenzenesulphonic acid are placed in a Parr apparatus and 1 g of 10% palladium-on-charcoal, 80 ml of methanol, 10 ml of acetic acid and 50 ml of water are added. The reaction medium is heated to 50° C. under a pressure of 0.35 MPa (50 psi). It is filtered through Celite, the filtrate is concentrated under reduced pressure and the residue thus obtained is crystallized from a methanol/pentane mixture.

reactant | 2-amino-5-bromo-3-cyclopent-2-en-1-ylbenzenesulphonic acid | 30.3 mmol, 9.6 g | NC1=C(C=C(C=C1C1C=CCC1)Br)S(=O)(=O)O | C11H12BrNO3S
reactant | methanol | 80 ml | CO | CH4O
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 1 g | [Pd] | Pd
solvent | water | 50 ml | O | H2O
product | 2-amino-3-cyclopentylbenzenesulphonic acid | NC1=C(C=CC=C1C1CCCC1)S(=O)(=O)O | C11H15NO3S
